US08134001B2
In a manner similar to the method described in example 1d, 2-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenoxy}-5-chloro-benzaldehyde (2.1 g, 5.1 mmol) was reacted with 1,1,3,3,3-hexamethyldisilazane (0.8 g, 5 mmol), n-butyllithium (2.5 M, 2 mL, 5 mmol), trimethylsilyl chloride (0.55 g, 5 mmol), triethylamine (0.68 g, 6.8 mmol) and acetyl chloride (0.5 g, 6.8 mmol) to give crude 1-{2-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenoxy}-5-chloro-phenyl}-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 2-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenoxy}-5-chloro-benzaldehyde | 5.1 mmol, 2.1 g | C(C)(C)(C)[Si](OCCOC1=CC=C(OC2=C(C=O)C=C(C=C2)Cl)C=C1)(C)C | C21H27ClO4Si
reactant | 1,1,3,3,3-hexamethyldisilazane | 5 mmol, 0.8 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | n-butyllithium | 5 mmol, 2.5 M, 2 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 5 mmol, 0.55 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 6.8 mmol, 0.68 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 6.8 mmol, 0.5 g | C(C)(=O)Cl | C2H3ClO
product | 1-{2-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenoxy}-5-chloro-phenyl}-3-trimethylsilyoxy-2-aza-1,3-butadiene | C(C)(C)(C)[Si](OCCOC1=CC=C(OC2=C(C=C(C=C2)Cl)C=NC(=C)O[Si](C)(C)C)C=C1)(C)C | C26H38ClNO4Si2
